US06673511B1
At 20 to 30° C., 12.9 g of methyl acrylate was added to 5.00 g of n-butylamine. The resulting mixture was allowed to stand for 20 hours, followed by concentration under reduced pressure, whereby 16.7 g of N-butylbis[2-(methoxycarbonyl)ethyl]amine was obtained (at a quantitative yield).

reactant | methyl acrylate | 12.9 g | C(C=C)(=O)OC | C4H6O2
reactant | n-butylamine | 5.00 g | C(CCC)N | C4H11N
product | N-butylbis[2-(methoxycarbonyl)ethyl]amine | 16.7 g, quantitative yield | C(CCC)N(CCC(=O)OC)CCC(=O)OC | C12H23NO4
